US06897013B2
(1) Synthesis of monodecyl mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Maleate
3,3,4,4,5,5,6,6,6-Nonafluorohexanol (164.6 g, 623 mmol) and pyridine (49.3 mL, 623 mmol) were dissolved in chloroform (280 mL), and the mixture was added dropwise with monododecyl maleate chloride (155.8 g, 566 mmol), while the internal temperature was kept at 20° C. or lower on an ice bath. After completion or the addition, the mixture was stirred for 1 hour and added with ethyl acetate. The organic phase was washed with 1 mol/L aqueous hydrochloric acid and a saturated sodium chloride aqueous solution. Then, the organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/chloroform=10/0 to 7/3 (v/v)) to obtain the target compound (48.2 g, yield: 18%).

reactant | 3,3,4,4,5,5,6,6,6-Nonafluorohexanol | 623 mmol, 164.6 g | FC(CCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C6H5F9O
reactant | pyridine | 623 mmol, 49.3 mL | N1=CC=CC=C1 | C5H5N
reactant | monododecyl maleate chloride | 566 mmol, 155.8 g | [Cl-].C(\C=C/C(=O)[O-])(=O)OCCCCCCCCCCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 280 mL | C(Cl)(Cl)Cl | CHCl3
product | monodecyl mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Maleate | 48.2 g, yield: 18% | C(\C=C/C(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(=O)OCCCCCCCCCC | C20H27F9O4
